US06174885B1
[6-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide hydrochloride (Compound 2)
4N Hydrochloric acid/ethyl acetate solution (0.19 ml) was added to a solution of [6-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide (0.20 g) in ethyl acetate (4 ml) while being cooled with ice and then stirred for 10 minutes. The deposited crystals were dissolved in ethanol and concentrated. The residue was crystallized with ethyl acetate, thereby yielding the entitled compound (0.21 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.19 ml | Cl.C(C)(=O)OCC
reactant | [6-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide | 0.20 g | CN(CCCNC(=O)OCC1CC=CCC1N(C=O)CCCCCCCCCCCCCCCCCC)C | C32H61N3O3
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | [6-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]-3-cyclohexenyl]-N-octadecylformamide hydrochloride | 0.21 g | Cl.CN(CCCNC(=O)OCC1CC=CCC1N(C=O)CCCCCCCCCCCCCCCCCC)C | InChI=1S/C32H61N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-27-35(29-36)31-24-20-19-23-30(31)28-38-32(37)33-25-22-26-34(2)3;/h19-20,29-31H,4-18,21-28H2,1-3H3,(H,33,37);1H
